US05703096
36(a) 5-(4-{2-[1-(4-Phenylthiophenyl)ethylideneaminooxy]ethoxy}benzyl)-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 1(a), but using 862 mg of 2-[1-(4-phenylthiophenyl)ethylideneaminooxy]ethanol (prepared as described in Preparation 36), 1.40 g of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione, 866 mg of triphenylphosphine and 549 mg of diethyl azodicarboxylate, 1.95 g of the title compound were obtained as a foam-like solid.

reactant | 2-[1-(4-phenylthiophenyl)ethylideneaminooxy]ethanol | 862 mg | C1(=CC=CC=C1)SC1=CC=C(C=C1)C(C)=NOCCO | C16H17NO2S
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 1.40 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 866 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 549 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-(4-{2-[1-(4-Phenylthiophenyl)ethylideneaminooxy]ethoxy}benzyl)-3-tritylthiazolidine-2,4-dione | 1.95 g | C1(=CC=CC=C1)SC1=CC=C(C=C1)C(C)=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C45H38N2O4S2
